US07727997B2
3-Bromo-5-(hydroxymethyl)benzoic acid
To an ice-cold solution of 3-bromo-5-(methoxycarbonyl)benzoic acid prepared by the method in Preparation 2 (10.3 g, 40 mmol) in anhydrous tetrahydrofuran (100 mL) is added lithium borohydride (12 g, 550 mmol) portion-wise. The reaction is stirred 4 h at this temperature. Absolute ethanol (20 mL) is added dropwise, and the reaction is stirred 1.5 h. The reaction is slowly poured on ice, and 10% hydrochloric acid (aq) is added until gas evolution ceased. The aqueous layer is extracted with chloroform, and the organic layer is washed with brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure to give the title compound. ESI MS m/z 229, 231 [M−H]−.

reactant | 3-bromo-5-(methoxycarbonyl)benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H7BrO4
reactant | lithium borohydride | 550 mmol, 12 g | [BH4-].[Li+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-Bromo-5-(hydroxymethyl)benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)CO | C8H7BrO3
